US08202858B2
4-[1,3]Dioxolan-2-yl-piperidine-1-carboxylic Acid Benzyl Ester
Ethylene glycol (5 ml) and a catalytic amount of p-toluenesulfonic acid were added to 4-formyl-piperidine-1-carboxylic acid benzyl ester from Example E33.2 (5.6 g, 22.6 mmol) in toluene (100 ml) and the mixture was heated at reflux under Dean and Stark conditions for 2.5 h. Solvents were removed in vacuo and the residue was redissolved in EtOAc, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 50% EtOAc:50% pet. ether) to yield the title compound (5.14 g, 78%).

reactant | Ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-formyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[1,3]Dioxolan-2-yl-piperidine-1-carboxylic Acid Benzyl Ester | 5.14 g, 78% | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1OCCO1 | C16H21NO4
